US08058285B2
Synthesis of 2-ethoxy-9-methyl-4-piperazin-1-yl-7-phenyl-thieno[2,3-d:4,5-d′]dipyrimidine
1.30 g (3.3 mmol) 2-chloro-9-methyl-4-piperazin-1-yl-7-phenyl-thieno[2,3-d:4,5-d′]di-pyrimidine and 0.67 g (9.9 mmol) sodium ethylate are refluxed in 30 ml ethanol for 3 h. Thereafter, the solvent is removed and the residue is suspended in some water. The aqueous suspension is extracted with dichloromethane and the solvent is removed. 0.90 g (68%) of the title substance is obtained. ESI-MS [m/z]: 407, melting point: >310° C.

reactant | 2-chloro-9-methyl-4-piperazin-1-yl-7-phenyl-thieno[2,3-d:4,5-d′]di-pyrimidine | 3.3 mmol, 1.30 g | ClC=1N=C(C2=C(N1)C1=C(N=C(N=C1C)C1=CC=CC=C1)S2)N2CCNCC2 | C19H17ClN6S
reactant | sodium ethylate | 9.9 mmol, 0.67 g | CC[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-ethoxy-9-methyl-4-piperazin-1-yl-7-phenyl-thieno[2,3-d:4,5-d′]dipyrimidine | C(C)OC=1N=C(C2=C(N1)C1=C(N=C(N=C1C)C1=CC=CC=C1)S2)N2CCNCC2 | C21H22N6OS
